US04618610
With ice-cooling and stirring, a solution of tetradecanoyl chloride (2.83 g) in dimethylformamide (25 ml) was added dropwise to a solution of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2.34 g) and N,N-dimethylaniline (1.53 g) in dimethylformamide (23 ml) over a period of 10 minutes. After completion of the addition, the mixture was stirred at room temperature for an additional 1.5 hours. The solvent was then distilled off under reduced pressure and 10% hydrochloric acid was added to the residue. The resulting crystalline powder was collected by filtration, washed with water and dried to give 6-(4-tetradecanoylaminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (3.82 g).

reactant | tetradecanoyl chloride | 2.83 g | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2.34 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | N,N-dimethylaniline | 1.53 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 23 ml | CN(C=O)C | C3H7NO
product | 6-(4-tetradecanoylaminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 3.82 g | C(CCCCCCCCCCCCC)(=O)NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C24H38N4O2
